US07022860B2
Intermediate 1 Methyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butynoate
A solution of triethylamine (27 mg) in methylene chloride (0.5 ml) was added to a solution of methyl 2,3-dibromo-4-(3,4-dimethoxyphenyl)-4-oxobutanoate (49 mg, 0.1 mmol), prepared above, in methylene chloride (0.5 ml). The mixture was stirred at room temperature for 15 min and then heated under reflux with stirring for 2 hr. The mixture was then treated by a conventional method, and the crude product was purified by column chromatography on silica gel (hexane/ethyl acetate) to give the title compound as a yellow crystal (21 mg, 71%).

reactant | triethylamine | 27 mg | C(C)N(CC)CC | C6H15N
reactant | methyl 2,3-dibromo-4-(3,4-dimethoxyphenyl)-4-oxobutanoate | 0.1 mmol, 49 mg | BrC(C(=O)OC)C(C(=O)C1=CC(=C(C=C1)OC)OC)Br | C13H14Br2O5
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butynoate | 21 mg, 71% | COC=1C=C(C=CC1OC)C(C#CC(=O)OC)=O | C13H12O5
